US05521177
b) 4'-[[2-n-Propyl-4-chloro-6-(2-cyano-3-methyl-guanidino) -1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 4d from 4'-[(2-n-propyl-4-chloro-6-(2-cyano-3-methyl-guanidino)-1H-benzimidazol-1-yl]-methyl]-2-(1-triphenylmethyl-tetrazol-5-yl)biphenyl and methanolic hydrochloric acid.

reactant | 4'-[(2-n-propyl-4-chloro-6-(2-cyano-3-methyl-guanidino)-1H-benzimidazol-1-yl]-methyl]-2-(1-triphenylmethyl-tetrazol-5-yl)biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C=C2Cl)NC(=NC#N)NC | C46H39ClN10
reactant | hydrochloric acid | Cl | ClH
product | 4'-[[2-n-Propyl-4-chloro-6-(2-cyano-3-methyl-guanidino) -1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2Cl)NC(=NC#N)NC | C27H25ClN10
